US07622492B2
Triethylamine (60 mL, 430 mmol) was added to a cooled (0° C.) mixture of 4-methoxy-phenylhydrazine hydrochloride (25.01 g, 143.2 mmol) and methanol (275 mL). The solution was stirred for 5 min and di-tert-butyl dicarbonate (34.4 g, 157.6 mmol) was added. The reaction mixture was stirred at 0° C. for 10 minutes, at reflux for 5 h, and then at room temperature overnight. The solvent was evaporated, ethyl acetate (500 mL) was added, and the solution was washed with a mixture of water and brine (100 mL water and 250 mL brine), dried (magnesium sulfate), filtered and evaporated to give a deep red oil. Further drying under high vacuum gave a deep red solid. The solid was recrystallized from 10% ethyl acetate/hexanes (30 mL), with slow cooling to room temperature followed by cooling in the refrigerator. The crystals were crushed, filtered off, washed with hexanes and dried under high vacuum to give N′-(4-methoxy-phenyl)-hydrazinecarboxylic acid tert-butyl ester (19.85 g, 58%) as a tan solid.

reactant | Triethylamine | 430 mmol, 60 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-phenylhydrazine hydrochloride | 143.2 mmol, 25.01 g | Cl.COC1=CC=C(C=C1)NN
reactant | di-tert-butyl dicarbonate | 157.6 mmol, 34.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 275 mL | CO | CH4O
product | N′-(4-methoxy-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 19.85 g, 58% | C(C)(C)(C)OC(=O)NNC1=CC=C(C=C1)OC | C12H18N2O3
